** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/integrator_ring-oscillator/xschem/integrator_ring_oscillator.sch
.subckt integrator_ring_oscillator VDD VSS Vctr RST A[4] A[3] A[2] A[1] A[0]
*.PININFO VDD:B Vctr:B VSS:B RST:B A[4:0]:B
x6 VDD VcrtPP A[0] A[1] Vctr VSS RST integrator_curstav_inv
x7 VDD VcrtPP A[1] A[2] Vctr VSS VSS integrator_curstav_inv
x8 VDD VcrtPP A[2] A[3] Vctr VSS RST integrator_curstav_inv
x9 VDD VcrtPP A[3] A[4] Vctr VSS VSS integrator_curstav_inv
x10 VDD VcrtPP A[4] A[0] Vctr VSS RST integrator_curstav_inv
M1 VcrtPP Vctr VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
M3 VcrtPP VcrtPP VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
.ends

* expanding   symbol:  /foss/designs/chipathon_2025/designs/ihp-sg13g2/integrator_curstav_inv/xschem/integrator_curstav_inv.sym #
*+ of pins=7
** sym_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/integrator_curstav_inv/xschem/integrator_curstav_inv.sym
** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/integrator_curstav_inv/xschem/integrator_curstav_inv.sch
.subckt integrator_curstav_inv VDD VcrtP A B VcrtN VSS RST
*.PININFO VDD:I VSS:I A:I B:O VcrtP:I VcrtN:I RST:I
M1 B A net2 VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
M2 net2 VcrtN VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
M3 B A net1 VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
M4 net1 VcrtP VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
M5 B VDD VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
M6 B RST VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
.ends

